US07674788B2
a)+b) 170 mg (1.67 mmol) (R)-3-hydroxytetrahydropyran are dissolved in 5 ml of tetrahydrofuran and under protective gas at −10° C. mixed with 821 μl (1.64 mmol) of a 2 molar solution of lithium diisopropylamine in tetrahydrofuran. The mixture is stirred for 30 minutes at −10° C., then for one hour at ambient temperature. The mixture is cooled to −10° C. again and combined with a suspension of 500 mg (1.64 mmol) 4-pyrrolidin-1-yl-2,6,7-trichloropteridine in 15 ml of tetrahydrofuran. The mixture is stirred for one hour at −10° C., slowly allowed to come up to ambient temperature and stirred for another four hours. The reaction mixture is combined with approx. 100 ml of water and extracted with dichloromethane. The organic phase is dried on sodium sulphate and the solvent is eliminated in vacuo. The residue is taken up in approx. 50 ml diethyl ether and stirred for one hour. The solid is suction filtered, washed with diethyl ether and dried. Yield 320 mg (53% of theory). The (R)-2,6-dichloro-7-(3-tetrahydropyranyloxy)-4-pyrrolidin-1-yl-pteridine thus obtained is dissolved in 13 ml dioxane and slowly added dropwise to a solution of 372 mg (4.3 mmol) piperazine in 12 ml dioxane at a temperature of 80° C. The mixture is stirred for approx. another 16 hours at 80° C., cooled to ambient temperature and the reaction mixture is combined with water. It is extracted with dichloromethane, the organic phase is dried on sodium sulphate and the solvent is eliminated in vacuo. The residue is purified by chromatography. The product obtained is stirred with diethyl ether, the solid substance is suction filtered, washed with diethyl ether and dried. Yield 170 mg (47% of theoretical)

reactant | (R)-3-hydroxytetrahydropyran | 1.67 mmol, 170 mg | O[C@H]1COCCC1 | C5H10O2
reactant | lithium diisopropylamine | C(C)(C)NC(C)C.[Li]
reactant | 4-pyrrolidin-1-yl-2,6,7-trichloropteridine | 1.64 mmol, 500 mg | N1(CCCC1)C1=NC(=NC2=NC(=C(N=C12)Cl)Cl)Cl | C10H8Cl3N5
reactant | water | approx. 100 ml | O | H2O
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 15 ml | O1CCCC1 | C4H8O
product | (R)-2,6-dichloro-7-(3-tetrahydropyranyloxy)-4-pyrrolidin-1-yl-pteridine | ClC1=NC2=NC(=C(N=C2C(=N1)N1CCCC1)Cl)O[C@H]1COCCC1 | C15H17Cl2N5O2
